US08563723B2
3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride
3.0 g N-(2-Bromo-phenyl)-2,2,2-trifluoro-acetamide was added in three portions to 3.74 mL (5.0 equiv.) chlorosulfonic acid under cooling in an ice-bath. The ice-bath was removed, the mixture was warmed to room temperature, and subsequently stirred for 1 hour at 80° C. After cooling, the clear brown reaction mixture was poured into ice and extracted with DCM. The organic phase was dried over Na2SO4, filtered, and evaporated to dryness to give 3.36 g (80%) of an oil that solidified upon standing. 1H NMR (400 MHz, CDCl3) δ 8.09 (dd, J=9.0, 2.0 Hz, 1H), 8.30 (d, J=2.0 Hz, 1H), 8.69 (d, J=9.0 Hz, 1H), 8.71 (br.s., 1H).

reactant | N-(2-Bromo-phenyl)-2,2,2-trifluoro-acetamide | 3.0 g | BrC1=C(C=CC=C1)NC(C(F)(F)F)=O | C8H5BrF3NO
reactant | chlorosulfonic acid | 3.74 mL, 5.0 equiv. | ClS(=O)(=O)O | ClHO3S
product | 3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride | 3.36 g, 80% | BrC=1C=C(C=CC1NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4BrClF3NO3S
